US03983138
A solution of 24.2 g. (0.10 mole) of benzyl N-hydroxymethylsuccinamate and 28.9 g. (0.11 mole) of triphenylphosphine in 500 ml. carbon tetrachloride is stirred at reflux for 12 hours. After filtering and washing the precipitate with benzene, the organic solvents are removed at 15 - 20 mm. and 30° - 40°C. to give benzyl N-chloromethylsuccinamate of sufficient purity for use in the next step.

reactant | benzyl N-hydroxymethylsuccinamate | 0.10 mole | OCNC(CCC(=O)OCC1=CC=CC=C1)=O | C12H15NO4
reactant | triphenylphosphine | 0.11 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | benzyl N-chloromethylsuccinamate | ClCNC(CCC(=O)OCC1=CC=CC=C1)=O | C12H14ClNO3
